US06448424B1
Aluminium chloride (53.7 g, 0.40 mol) was added portion wise to 2-benzylcyclohexanone (25 g, 0.13 mol) in 100 mL of hexane. The mixture was heated at 60° C. for 4 h then cooled and poured onto ice acidified with HCl (aq). The organic layer was decanted and the aqueous layer was extracted with 100 mL of hexane. The organics were washed once with a dilute HCl solution, a dilute sodium bicarbonate solution and finally with water. The organic layer was dried, filtered and the hexane was removed. The resulting oil was distilled at 110-135° C. at 4 mm Hg, followed by crystallization from methanol gave (5 g, 23%) of tetrahydrofluorene as a white solid, mp 57° C.

reactant | Aluminium chloride | 0.40 mol, 53.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-benzylcyclohexanone | 0.13 mol, 25 g | C(C1=CC=CC=C1)C1C(CCCC1)=O | C13H16O
reactant | HCl | Cl | ClH
solvent | hexane | 100 mL | CCCCCC | C6H14
product | tetrahydrofluorene | 5 g, 23% | C1CCCC=2C3=CC=CC=C3CC12 | C13H14
